US05808079
Preparation of 2-(5-ethyl-2-pyridyl)-4-isopropyl-4-methyl-5-oxo-2-imidazoline-1-crotonic acid, (E)-
A stirred solution of ethyl 2-(5-ethyl-2-pyridyl)-4-isopropyl-4-methyl-5-oxo-2-imidazoline-1-crotonate, (E)- (1.16 g, 3.25 mmol) in 1:1 tetrahydrofuran/water is treated with sodium hydroxide (0.45 g, 11.3 mmol) at once. The resulting mixture is stirred at reflux for 1.5 hours, then at room temperature for 16.5 hours. After this period, the reaction mixture is diluted with water, and washed with ether. The aqueous layer is acidified with 1N hydrochloric acid (15 mL), and extracted with ether. The organic extract is dried over sodium sulfate, decolorized with charcoal and vacuum filtered through diatomaceous earth. The filtrate is concentrated in vacuo to give the title product as a yellow solid, mp 53°-58° C.

reactant | ethyl 2-(5-ethyl-2-pyridyl)-4-isopropyl-4-methyl-5-oxo-2-imidazoline-1-crotonate | C(C)C=1C=CC(=NC1)C=1N(C(C(N1)(C)C(C)C)=O)C/C=C/C(=O)OCC | C20H27N3O3
reactant | tetrahydrofuran water | O1CCCC1.O
reactant | sodium hydroxide | 11.3 mmol, 0.45 g | [OH-].[Na+]
solvent | water | O | H2O
product | 2-(5-ethyl-2-pyridyl)-4-isopropyl-4-methyl-5-oxo-2-imidazoline-1-crotonic acid | C(C)C=1C=CC(=NC1)C=1N(C(C(N1)(C)C(C)C)=O)C/C=C/C(=O)O | C18H23N3O3
